US04939148
(H) N-Methyl-4-phenylbenzylamine (for Example 7)
10 g of 4-Biphenylcarbaldehyde and 40 ml of 33% ethanolic methylamine are stirred overnight at room temperature with a 4 Å molecular sieve. The mixture is filtered and concentrated under vacuum. The residue is treated in 60 ml of ethanol with 2 g of sodium borohydride and stirred for 3 hours. The solvent is removed under vacuum, the residue partitioned between ether and water and the organic phase dried and concentrated. The pure base is obtained as an oil following chromatography on silica gel with dichloromethane/ethanol=9/1 as eluant.

reactant | 4-Biphenylcarbaldehyde | 10 g | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
reactant | methylamine | 40 ml | CN | CH5N
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-Methyl-4-phenylbenzylamine | CNCC1=CC=C(C=C1)C1=CC=CC=C1 | C14H15N
